US08067408B2
N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-5-methyl-N′-[(3′-{[(3S)-3-methyl-1-piperazinyl]methyl}-3-biphenylyl)methyl]-1,3-benzenedicarboxamide
N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-[(3′-formyl-3-biphenylyl)methyl]-5-methyl-1,3-benzenedicarboxamide (30 mg, 0.046 mmol), 1,1-dimethylethyl (2S)-2-methyl-1-piperazinecarboxylate (91 mg, 0.46 mmol, 10 eq) and acetic acid (2.61 μL, 0.046 mmol, 1 eq) were dissolved in DMSO (1.5 mL). The mixture was stirred in a VX-2500 Multi-Tube Vortexer overnight at room temperature. MP-triacetoxyborohydride (137 mg, 0.319 mmol, 7 eq) was then added and the mixture was stirred again in the VX-2500 Multi-Tube Vortexer overnight at room temperature. The reaction mixture was filtered through a polypropylene cartridge (10 mL tube) on Bohdan Miniblock (Artisian Scientific, Chanpaign, Ill., USA; http://www.artisan-scientific.com/51413.htm) in a reaction tube and concentrated in a Glas-Col evaporator. Methanol (2 mL), then hydrochloric acid (5 μL), were added for the deprotection of 1,1-dimethylethyl (2S)-4-[(3′-{[({3-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]-5-methylphenyl}carbonyl)amino]methyl}-3-biphenylyl)methyl]-2-methyl-1-piperazinecarboxylate. The vial containing the reaction mixture was closed and stirred in a Glas-Col evaporator for overnight at 60° C. The reaction mixture was then concentrated and purified using a Gilson HPLC with a water-acetonitrile-with-0.1% TFA buffer. The desired product fractions were combined, filtered through amine cartridge (500 mg) on a Bohdan Miniblock and concentrated in a Glas-Col evaporator, giving 22.99 mg (61.2%) of the title compound. LC-MS m/z 743.4 (M+H)+, 1.27 min (ret time); 1H NMR (500 MHz, DMSO-d6) δ 0.86 (d, J=6.35 Hz, 3 H), 1.24 (t, J=7.32 Hz, 3 H), 1.33 (t, J=7.08 Hz, 3 H), 1.52-1.58 (m, 2 H), 1.83-1.97 (m, 2 H), 2.40 (s, 3 H), 2.59-2.65 (m, 4 H), 2.70-2.76 (m, 1 H), 2.96 (q, J=7.49 Hz, 2 H), 3.16 (d, J=5.37 Hz, 3 H), 3.54 (t, J=10.50 Hz, 2 H), 3.83-3.89 (m, 2 H), 4.09 (q, J=5.37 Hz, 2 H), 4.32 (q, J=7.16 Hz, 2 H), 4.54 (d, J=5.86 Hz, 4 H), 7.05 (d, J=7.81 Hz, 1 H), 7.26 (d, J=7.32 Hz, 1 H), 7.31 (d, J=7.81 Hz, 1 H), 7.40 (ddd, J=12.09, 7.69, 7.57 Hz, 2 H), 7.47-7.53 (m, 3 H), 7.58 (s, 1 H), 7.80 (s, 1 H), 7.85 (s, 1 H), 8.00 (s, 1 H), 8.14 (s, 1 H), 8.97 (t, J=5.86 Hz, 1 H), 9.11 (t, J=5.86 Hz, 1 H).

reactant | N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-[(3′-formyl-3-biphenylyl)methyl]-5-methyl-1,3-benzenedicarboxamide | 0.046 mmol, 30 mg | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=CC(=CC(=C2)C)C(=O)NCC=2C=C(C=CC2)C2=CC(=CC=C2)C=O)CC | C39H42N6O4
reactant | 1,1-dimethylethyl (2S)-2-methyl-1-piperazinecarboxylate | 0.46 mmol, 91 mg, 10 eq | C[C@@H]1N(CCNC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | acetic acid | 0.046 mmol, 2.61 μL, 1 eq | C(C)(=O)O | C2H4O2
reactant | triacetoxyborohydride | 0.319 mmol, 137 mg, 7 eq | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O
solvent | DMSO | 1.5 mL | CS(=O)C | C2H6OS
product | N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-5-methyl-N′-[(3′-{[(3S)-3-methyl-1-piperazinyl]methyl}-3-biphenylyl)methyl]-1,3-benzenedicarboxamide | 22.99 mg, 61.2% | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=CC(=CC(=C2)C)C(=O)NCC=2C=C(C=CC2)C2=CC(=CC=C2)CN2C[C@@H](NCC2)C)CC | C44H54N8O3
